US05965730
To a solution of 3,4-dimethoxy-6-(2-chloroisonicotinoyl)benzoic acid (70 g) in tetrahydrofuran (1800 ml) is added triethylamine (45.5 ml) at room temperature under nitrogen atmosphere, and thereto is added dropwise ethyl chloroformate (25 ml) at a temperature below -20° C., and the mixture is stirred at -20° C. for 10 minutes. To the reaction mixture is added a 1.38 M aqueous sodium azide solution (500 ml), and the mixture is stirred at room temperature for 1.5 hour, and extracted with ethyl acetate. The extract is washed, dried, and concentrated. The residue is dissolved in toluene (1300 ml), and the mixture is heated under reflux for one hour. To the reaction mixture is added conc. hydrochloric acid (450 ml) under ice-cooling, and the mixture is heated with stirring at 80° C. for one hour. To the reaction mixture is added ice-water, and the mixture is extracted with chloroform. The extract s washed, dried and concentrated. The residue is crystallized from ether to give 3,4-dimethoxy-6-(2-chloroisonicotinoyl)aniline (50.3 g).

reactant | 3,4-dimethoxy-6-(2-chloroisonicotinoyl)benzoic acid | 70 g | COC=1C=C(C(=O)O)C(=CC1OC)C(C1=CC(=NC=C1)Cl)=O | C15H12ClNO5
reactant | triethylamine | 45.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 25 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 1.38 M, 500 ml | [N-]=[N+]=[N-].[Na+]
solvent | tetrahydrofuran | 1800 ml | O1CCCC1 | C4H8O
product | 3,4-dimethoxy-6-(2-chloroisonicotinoyl)aniline | 50.3 g | COC=1C=C(N)C(=CC1OC)C(C1=CC(=NC=C1)Cl)=O | C14H13ClN2O3
